US07223788B2
tert-Butyl (R)-methyl-[1-(4-nitrophenyl)pyrrolidin-3-yl]carbamate
tert-Butyl (R)-[1-(4-nitrophenyl)pyrrolidin-3-yl]carbamate was alkylated with iodomethane by method F. This resulted in the product with the molecular weight of 321.38 (C16H23N3O4); MS (ESI): 322 (M+H+).

reactant | tert-Butyl (R)-[1-(4-nitrophenyl)pyrrolidin-3-yl]carbamate | [N+](=O)([O-])C1=CC=C(C=C1)N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C15H21N3O4
reactant | iodomethane | IC | CH3I
product | tert-Butyl (R)-methyl-[1-(4-nitrophenyl)pyrrolidin-3-yl]carbamate | CN(C(OC(C)(C)C)=O)[C@H]1CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H23N3O4
